US04820705
3-Methyl-4-(2-benzenesulphonamido-indan-5-yl)-4-oxobutyric acid
Prepared analogously to Example 2 from methyl 3-methyl-4-(2-benzenesulphonamido-indan-5-yl)-4-oxobuty rate by hydrolysis with sodium hydroxide.

reactant | methyl 3-methyl-4-(2-benzenesulphonamido-indan-5-yl)-4-oxobuty rate | CC(CC(=O)OC)C(=O)C=1C=C2CC(CC2=CC1)NS(=O)(=O)C1=CC=CC=C1 | C21H23NO5S
reactant | sodium hydroxide | [OH-].[Na+]
product | 3-Methyl-4-(2-benzenesulphonamido-indan-5-yl)-4-oxobutyric acid | CC(CC(=O)O)C(=O)C=1C=C2CC(CC2=CC1)NS(=O)(=O)C1=CC=CC=C1 | C20H21NO5S
